US04026911
2-Methyl-2-(7-chloro-3-heptynyl)-1,3-dioxolane (21.6 g, 0.1 mol) was dissolved in 120 ml EtOH (convenience; dimethylformamide, dimethylsulfoxide, or other polar solvents may be used) and added to a solution of NaCN (9.8 g, 0.2 mol) and NaI (2.0 g, 0.013 mol) in 80 ml H2O. KCN, NH4CN or other cyanide salts may be used. The reaction was concentrated to remove the solvent and was extracted with three 100 ml portions of ether. The combined organic extracts were washed with 2-50 ml portions of water and brine. After drying over anhydrous MgSO4, the solvent was removed to give 20 g of 2-methyl-2-(7-cyano-3-heptynyl)-1,3-dioxolane, pure enough to use directly in the next step. Yield: 20 g, 99%. IR (CHCl3): 3000, 2950, 2890, 2250, 1675 cm-1.

reactant | 2-Methyl-2-(7-chloro-3-heptynyl)-1,3-dioxolane | 0.1 mol, 21.6 g | CC1(OCCO1)CCC#CCCCCl | C11H17ClO2
reactant | NaCN | 0.2 mol, 9.8 g | [C-]#N.[Na+]
reactant | NaI | 0.013 mol, 2.0 g | [Na+].[I-]
reactant | KCN | [C-]#N.[K+]
solvent | EtOH | 120 ml | CCO | C2H6O
solvent | H2O | 80 ml | O | H2O
product | 2-methyl-2-(7-cyano-3-heptynyl)-1,3-dioxolane | 20 g | CC1(OCCO1)CCC#CCCCC#N | C12H17NO2
